US04892576
(c) 5-Amino-3-benzylthio-4-methoxycarbonyl-N-methylpyrazole-1-carbothioamide
45.11 g (0.127 mol) Methyl 3,3-dibenzylthio-2-cyanoacrylate and 13.35 g (0.127 mol) 4-methylthiosemicarbazide in 225 ml ethanol were heated under reflux for 10 hours. After cooling, the product was suction filtered, washed with ether and dried.

reactant | Methyl 3,3-dibenzylthio-2-cyanoacrylate | 0.127 mol, 45.11 g | C(C1=CC=CC=C1)SC(=C(C(=O)OC)C#N)SCC1=CC=CC=C1 | C19H17NO2S2
reactant | 4-methylthiosemicarbazide | 0.127 mol, 13.35 g | CNC(NN)=S | C2H7N3S
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 5-Amino-3-benzylthio-4-methoxycarbonyl-N-methylpyrazole-1-carbothioamide | NC1=C(C(=NN1C(NC)=S)SCC1=CC=CC=C1)C(=O)OC | C14H16N4O2S2
